US04029674
t-Butylhypochlorite (104.6 g, 0196 mol) was added dropwise to a solution of 2-allyl-1,3-cyclohexanedione (132 g, 0.87 mol) in 650 ml of methanol at 0° C. The temperature was not allowed to rise above 20° C. The methanol was removed at reduced pressure in a 40° water bath and the residual oil was taken up in benzene. The benzene solution was washed with 5 percent sodium thiosulfate (3× 250 ml), 5 percent sodium bicarbonate (3× 250 ml) and water (1× 250 ml). Evaporation of the benzene gave 148 g (91 percent) of 2-chloro-2-allyl-1,3-cyclohexanedione as a light yellow oil.

reactant | t-Butylhypochlorite | 104.6 g | C(C)(C)(C)OCl | C4H9ClO
reactant | 2-allyl-1,3-cyclohexanedione | 0.87 mol, 132 g | C(C=C)C1C(CCCC1=O)=O | C9H12O2
solvent | methanol | 650 ml | CO | CH4O
product | 2-chloro-2-allyl-1,3-cyclohexanedione | 148 g, 91 percent | ClC1(C(CCCC1=O)=O)CC=C | C9H11ClO2
